US05538940
A solution of 9.8 g (0.03 mol) of 2-[2-(4-fluorophenyl)-4-thiazolylmethyloxy]acetophenone in 80 ml of tetrahydrofuran is added dropwise to 3.0 g (0.033 mol) of dimethyl carbonate and 0.8 g (0.033 mol) of sodium hydride in 20 ml of tetrahydrofuran at 60° C. with stirring under nitrogen, and the mixture is then stirred at 60° C. for 1 hour. After cooling, first 5 ml of methanol and then 500 ml of water are added, and the mixture is acidified with dilute hydrochloric acid and extracted with methyl tert-butyl ether. The organic phase is washed with sodium bicarbonate solution, dried and concentrated. The result is 10.8 g (93% yield) of ω-methoxycarbonyl-2-[2-(4-fluorophenyl)-4-thiazolylmethyloxy]acetophenone as an ocher solid of melting point 86°-89° C.

reactant | 2-[2-(4-fluorophenyl)-4-thiazolylmethyloxy]acetophenone | 0.03 mol, 9.8 g | FC1=CC=C(C=C1)C=1SC=C(N1)COCC(=O)C1=CC=CC=C1 | C18H14FNO2S
reactant | dimethyl carbonate | 0.033 mol, 3.0 g | C(OC)(OC)=O | C3H6O3
reactant | sodium hydride | 0.033 mol, 0.8 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | ω-methoxycarbonyl-2-[2-(4-fluorophenyl)-4-thiazolylmethyloxy]acetophenone | 10.8 g, 93% yield | COC(=O)C(C(=O)C1=CC=CC=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)F | C20H16FNO4S
